US05455252
2-bromo-4-(methylthiomethyl)aniline and glycerol can be combined to form 6-(methylthiomethyl)-8-bromoquinoline, and

reactant | 2-bromo-4-(methylthiomethyl)aniline | BrC1=C(N)C=CC(=C1)CSC | C8H10BrNS
reactant | glycerol | OCC(O)CO | C3H8O3
product | 6-(methylthiomethyl)-8-bromoquinoline | CSCC=1C=C2C=CC=NC2=C(C1)Br | C11H10BrNS
